* D:\Polytech Associatif\Space'Tech\Tigresse-2\Experience\simulation_ADA.asc
R2 N003 N006 1K
XU1 N011 N003 N005 N012 N006 0 ADA4530-1
V1 0 N012 4
V2 N005 0 4
V3 N002 0 SINE(0 20µ 7 0 0 0 30)
C1 N002 N011 4µ V=450
R1 N001 N009 200K
C2 N009 N004 1µ
C3 N001 N004 120n
C4 N001 N004 22n
C5 N004 N003 100n
R3 N004 0 100k
V5 N007 0 5
XU2 0 N009 N007 N013 N001 AD8642
XU3 N010 N008 P001 0 Out AD8642
R4 N008 N001 240K
R5 0 N010 120K
R6 N010 N014 270K
R7 Out N008 150K
V6 N014 0 5
V7 P001 0 5
V4 N013 0 -5
.tran 0 5 0
.lib ADI.lib
.lib ADI1.lib
.backanno
.end
